US06455525B1
To a vigorously stirred suspension of NaH (60% dispersion in mineral oil, 2.28 g, 56.6 mmol, 2.9 equiv.) and diethyl carbonate (4.7 mL, 38.83 mmol, 1.99 equiv.) in dry toluene (30 mL) was added drop wise (over a period of 1 h) a solution of the methyl ketone, 1-furan-2-yl-ethanone, (2.14 g., 19.51 mmol) in toluene (5 mL) under reflux. After addition, the mixture was stirred at reflux for 0.5 h. The mixture was cooled to RT and was acidified with glacial acetic acid. After adding cold water, the mixture was extracted 3 times with ethyl acetate. Combined organic extract was washed with water and brine. After drying over MgSO4, solvent was evaporated to furnish the crude β-ketoester, 3-furan-2-yl-3-oxo-propionic acid ethyl ester. To the crude product was added absolute ethanol (10 mL) and hydrazine hydrate (1 mL). The mixture was kept under reflux for 3 h. Solvent was evaporated in vacuo. The crude mass was purified by flash chromatography (EtOAc). The solid obtained was stirred in EtOAc for 15 min., filtered and dried to furnish the pyrazolone (VIb) (1.23 g, 42%). 1H-NMR (DMSO-d6) δ 12.1 (br s, 1H), 9.5 (br s, 1H), 7.64 (s, 1H), 6.63 (s, 1H), 6.51 (s, 1H), 5.64 (s, 1H). (M+H).

reactant | NaH | 56.6 mmol, 2.28 g, 2.9 equiv. | [H-].[Na+]
reactant | diethyl carbonate | 38.83 mmol, 4.7 mL, 1.99 equiv. | C(OCC)(OCC)=O | C5H10O3
reactant | methyl ketone | CC(=O)C | C3H6O
reactant | 1-furan-2-yl-ethanone | O1C(=CC=C1)C(C)=O | C6H6O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-furan-2-yl-3-oxo-propionic acid ethyl ester | C(C)OC(CC(=O)C=1OC=CC1)=O | C9H10O4
